US05120347
c. 1-t-Butyl-3-phenyl-4-propargyl-1,2,4-triazolin-5-one
A mixture of crude 345 g (1.2 mol) of 1-t-butyl-4-H-3-phenyl-1,2,4-triazol-5-one and 3.5 L of ethyl acetate containing 0.03% water was stirred at room temperature and 190 g (1.67 mol) of solid potassium carbonate (K2CO3) was added. The mixture was heated at reflux for 0.5 h and 248 g (1.67 mol) of an 80% weight solution of propargyl bromide in toluene was added dropwise over 30 minutes. Refluxing was continued for an additional 3 h. The mixture was allowed to cool to room temperature, diluted with 2 L of water and stirred for 15 min. The organic layer was separated, washed with brine and dried over magnesium sulfate (MgSO4). Removal of the solvent left 300 g of an oil which was crystallized from 500 mL of ether and 1500 mL of hexanes to furnish 180 g of the desired compound, mp 82°-83° C.

reactant | 1-t-butyl-4-H-3-phenyl-1,2,4-triazol-5-one | 1.2 mol, 345 g | C(C)(C)(C)N1NC(=NC1=O)C1=CCCC=C1 | C12H17N3O
reactant | ethyl acetate | 3.5 L | C(C)(=O)OCC | C4H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | C(C#C)Br | C3H3Br
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 2 L | O | H2O
product | 1-t-Butyl-3-phenyl-4-propargyl-1,2,4-triazolin-5-one | 180 g | C(C)(C)(C)N1N=C(N(C1=O)CC#C)C1=CC=CC=C1 | C15H17N3O
